US05475109
Ethyl-N-benzenesulfonyl-piperidine-4-carboxylate
A solution of ethyl isonipecotate (15.7 g, 0.1 mol) in methylene chloride (100 mL) at 0° C. was treated with pyridine (10 mL) and then benzenesulfonyl chloride (17.6 g, 0.1 mol). The reaction was warmed to room temperature and stirred at room temperature for 2 hours. The reaction was then poured into 1 N HCl (1 L) and extracted with ethyl acetate (2×500 mL). The combined extracts were dried over anhydrous magnesium sulfate, filtered, and concentrated at reduced pressure. The solid was recrystallized from ethyl acetate to give 17 g of product.

reactant | ethyl isonipecotate | 0.1 mol, 15.7 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
reactant | benzenesulfonyl chloride | 0.1 mol, 17.6 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | HCl | 1 N, 1 L | Cl | ClH
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | Ethyl-N-benzenesulfonyl-piperidine-4-carboxylate | 17 g | C(C)OC(=O)C1CCN(CC1)S(=O)(=O)C1=CC=CC=C1 | C14H19NO4S
